US09056874B2
2-((7-(Hydroxymethyl)-5-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of 2-((7-(hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (13 mg, 0.028 mmol), KOH (15.5 mg, 0.276 mmol) and isoamylamine (64 μL, 0.553 mmol) in EtOH (0.8 mL) was stirred at 100° C. using microwave irradiation for 45 minutes. The mixture was directly purified using RP-HPLC (HC-A) to provide the title compound. 1H NMR (TFA salt, 400 MHz, DMSO-d6) δ ppm 10.84 (s, 1H) 7.96 (s, 1H) 7.59 (d, J=8.34 Hz, 1H) 7.45-7.55 (m, 1H) 7.22 (t, J=2.78 Hz, 1H) 6.95 (s, 1H) 6.44-6.51 (m, 1H) 4.74 (s, 2H) 4.47 (s, 2H) 2.39 (s, 3H). HRMS calcd. for C19H16N4O (M+H)+ 317.1402. found 317.1404.

reactant | 2-((7-(hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.028 mmol, 13 mg | OCC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N)C | C26H22N4O3S
reactant | KOH | 0.276 mmol, 15.5 mg | [OH-].[K+]
reactant | isoamylamine | 0.553 mmol, 64 μL | C(CC(C)C)N | C5H13N
solvent | EtOH | 0.8 mL | CCO | C2H6O
product | 2-((7-(Hydroxymethyl)-5-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OCC=1C=C(C(=C2C=CNC12)CC1=NC2=C(N1)C=CC(=C2)C#N)C | C19H16N4O
